US07662972B2
4-[5-(3,5-Dichlorophenyl)-5-trifluoromethyl-4,5-dihydroisoxazol-3-yl]-2-methylbenzhydroxamic acid N-(2,2,2-trifluoroethyl)carbamic acid anhydride (Compound of the Present Invention No. 5-663)
In a solution of 0.16 g of carbonyl diimidazole in 2 ml of tetrahydrofuran, 0.10 g of 2,2,2-trifluoroethylamine was added, and stirred at room temperature for 1 hour. Then, a solution of 0.10 g of 4-[5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydroisoxazol-3-yl]-2-methylbenzhydroxamic acid in 2 ml of tetrahydrofuran was added in the reaction mixture, and continued to stir at room temperature further for 1 hour. After the completion of the reaction, the solvent was distilled off under reduced pressure, 10 ml of water was added in the residue, and extracted with ethyl acetate (10 ml×1). The organic phase was washed with 5 ml of 2N hydrochloric acid aqueous solution, dehydrated and dried with saturated sodium chloride aqueous solution and anhydrous sodium sulfate in that order, and the solvent was distilled under reduced pressure. The residue was purified with silica gel thin-layer chromatography (Kanto Chemical Co., Ltd.: PLC plates silica gel 60 F254 20×20 cm layer thickness 2 mm) that was developed with ethyl acetate-hexane (1:1) to obtain 0.12 g of the aimed product as white crystal.

reactant | carbonyl diimidazole | 0.16 g | C(=O)(C=1NC=CN1)C=1NC=CN1 | C7H6N4O
reactant | 2,2,2-trifluoroethylamine | 0.10 g | FC(CN)(F)F | C2H4F3N
reactant | 4-[5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydroisoxazol-3-yl]-2-methylbenzhydroxamic acid | 0.10 g | ClC=1C=C(C=C(C1)Cl)C1(CC(=NO1)C1=CC(=C(C(=O)NO)C=C1)C)C(F)(F)F | C18H13Cl2F3N2O3
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | 4-[5-(3,5-Dichlorophenyl)-5-trifluoromethyl-4,5-dihydroisoxazol-3-yl]-2-methylbenzhydroxamic acid N-(2,2,2-trifluoroethyl)carbamic acid anhydride | 0.12 g | FC(CNC(=O)ONC(C1=C(C=C(C=C1)C1=NOC(C1)(C(F)(F)F)C1=CC(=CC(=C1)Cl)Cl)C)=O)(F)F | C21H15Cl2F6N3O4
